Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Cipro / Sulfa (Sulfonamide Antibiotics) / doxycycline / 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Headache and vertigo
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ RHF w/ hx prior cerebellar CVA, CAD, CHF, HTN, asthma/COPD,
presents as transfer for ongoing headache x8 days and gait
instability x2 days.

Patient reports that 8 days ago she had gradual onset of dull,
achy headache that started over the frontal areas and radiating
back to occiput and neck. These were throbbing, continuous, and
not improved with sleep or changed with position; not associated
with blurry vision, photophobia, photopsias, nausea, vomiting.
She did have intermittent monocular diplopia, and at times 
triple
vision, which occurred in each eye no matter which eye she
covered. She does not have this now. She went to ___ 
for
evaluation of this where she underwent MRA head/neck which 
showed
chronic R vertebral artery stenosis. She was discharged from ED.

About 2 days ago, she reports her headache changed in location 
to
the right side only, although the quality did not change. She
also began feeling very unbalanced and would tend to fall to the
right when she tried to walk. She does not feel weak, clumsy, or
vertiginous. Denies dysarthria or dysphagia. This progressed to
the point that she could no longer ambulate without feeling like
she will fall. She also began to have a "funny sensation" in her
left hand and she could not feel the heat of hot water as well 
as
the right side. She denies tingling or paresthesias. She 
returned
to ___ today and underwent a CT head noncontrast which
was reportedly normal, and subsequently transferred to ___ for further evaluation.

Regarding her prior strokes, she states that the first one was
ischemic and occurred in ___ presentation was feeling like the
stairs were moving and dysarthria. She underwent MRI which 
showed
an artery on the R side that was narrowed.

In ___, she had a hemorrhagic stroke; presentation was
she was napping and through sleep heard the TV and kids; she 
woke
up and felt funny and went to the hospital. She states she had
repeat imaging which showed that the R sided artery was still
narrow and could not be stented. She states she was started on
Plavix after this event. Since this happened, she reports ___
events daily of feeling like she is out of her body, and feels
high, tired, as if falling; and she will immediately go to sleep
after these events. She returns to normal when she awakens. 
These
events occurred daily until 8 days ago when she had onset of
headache.

On neuro ROS, the pt denies loss of vision, blurred vision,
dysarthria, dysphagia, lightheadedness, vertigo, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
2 prior CVAs, 1 ischemic in ___, 1 hemorrhagic in ___
CKD
CHF (unknown EF)
HTN
Asthma
Peptic ulcer disease
Depression
Anxiety
Restless leg syndrome
Bilateral carpal tunnel syndrome
Irritable bowel syndrome
 
Social History:
___
Family History:
DM, HTN
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 97.6 68 144/70 16 100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt was able to
register 3 objects and recall ___ at 5 minutes. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation decreased on R in V1-V2 to light touch (80%
of L). No difference in pinprick or temperature.
VII: Minimal weakness of right eye opening and closure, R NLFF
with decreased activation of orbicularis oris.
VIII: Hearing intact bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Slight bounce of both 
upper
extremities R>L but no pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: Decreased sensation to light touch (50%), pinprick, 
and
temperature on left forearm and hand, compared to right. No
difference in the lower extremities. Vibratory and joint 
position
sense are preserved. No agraphesthesia or extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    0   0
R  2  2    2    0   0
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally. No
intention tremor, no dysdiadochokinesia noted.

-Gait: No truncal ataxia on sitting with arms crossed. Good
initiation on standing. With eyes open and closed, she lists to
right, however she is steady when distracted with tasks. Takes
few steps but lists to right and retropulses back to bed.

**********
Laboratory Data (OSH):

Wbc 9.9, H/H 11.1/34.4, Plt 250
Pt 13, INR .99, PTT 27.1, Fibro 507
Na 139, K 3.8, Cl 108, HCO3 26, BUN 9, Cr 1.18, Ca 9.2
T Bili .3, AST 15, ALT 14, Alk Phos 101, LDH 180, T Protein 6.4,
Alb 2.9
Trop .01, CK-MB 1.0

Radiologic Data:

Non-Contrast CT of Head (OSH ___:
No hemorrhage. ?small R posterior cerebellar hypodensity vs
artifact. (my read)

MRA head/neck (OSH ___:
Severe/critical stenosis of right vertebral artery 
intracranially
with reconstitution just proximal to joining left at basilar
artery (my read)

***************

ASSESSMENT:

___ F w/ past medical history of 2 prior CVAs, on Plavix w/ R
vertebral stenosis on MRA ___, numerous risk factors, p/w
headache x8 days and gait instability x2 days. Examination
reveals subtle right facial weakness, sensory deficits in left
forearm, and truncal ataxia upon standing with listing to right.
In light of her previous infarcts, cardiovascular risk factors,
and known vessel disease, a new ischemic lesion is possible.
Localization to explain all these deficits could be pontine,
likely lacunar infarct, with involvement of crossfibers carrying
input from the cerebellum. That said, there are some 
inconsistent
elements such as the monocular diplopia/triplopia which in
conjunction with background of significant psychosocial 
stressors
injects possibility of functional overlay or an additional
disease process such as atypical/complex migraine. There is no
sign of increased intracranial pressure or infectious etiology
for her headaches and they have improved to conservative
treatment.

DISCHARGE PHYSICAL EXAM:
Deferred as patient left AMA
 
Pertinent Results:
ADMISSION LABS:
___ 04:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:00AM URINE Color-Straw Appear-Clear Sp ___
___ 05:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 05:00AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

DISCHARGE LABS:
None as patient left AMA
 
Brief Hospital Course:
___ F w/ past medical history of 2 prior CVAs, on Plavix w/ R 
vertebral stenosis on MRA ___, numerous risk factors, p/w 
headache x8 days and gait instability x2 days. Examination 
reveals subtle right facial weakness, sensory deficits in left 
forearm, and wide based gait with retropulsion. MRI head showed 
new infarcts in the L cerebellum and 2 new lesions in the 
brainstem. Patient became upset with care in ___, stating 
that she does not like the city because her son was murdered 
here. She left AMA after thorough discussion of the risks 
including additional stroke and disability. She stated she 
understood the risks and wanted to leave.
 
Medications on Admission:
Not done as patient left AMA
 
Discharge Medications:
Not done as patient left AMA
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,  
You were hospitalized due to symptoms of headache and trouble 
walking resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
Previous strokes
High blood pressure

You have decided to leave against medical advice (AMA). We were 
unable to complete our workup or assess your stability with 
walking. By leaving AMA, you are stating you understand the risk 
of worsening symptoms, another stroke resulting in additional or 
more severe symptoms, and fall at home with possible injury to 
self and/or death.

We did not change any of your prescriptions. Please take your 
medications as prescribed.  

Please followup with Neurology and your primary care physician 
immediately as you will need additional work-up for you new 
stroke.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

 
Followup Instructions:
___